US09328111B2
Step 2: 6-Methyl-8,9,10,11-tetrahydro-2H-pyridazino[5,4,3-kl]acridin-3(7H)-one
A solution of methyl 9-hydroxy-7,7-dimethyl-5,6,7,8-tetrahydroacridine-1-carboxylate (0.18 g, 0.63 mmol) and hydrazine hydrate (2.5 mL) in DMA (4 mL) was heated at 130° C. for 4 hours. The reaction mixture was cooled to room temperature, the resulting precipitate was collected by filtration, washed with MeOH (cold, 5 mL) and water (30 mL). Then the precipitate was recrystalized with MeOH to afford a yellow solid (95 mg). 1H NMR (DMSO-d6) δ 11.6 (s, 1H), 9.05 (s, 1H), 7.46 (d, 1H, J=7.8 Hz), 7.38 (d, 1H, J=7.8 Hz), 2.52-2.54 (m, 2H), 2.34 (s, 3H), 2.24-2.26 (m, 2H), 1.68-1.72 (m 4H). MS (ESI) m/e [M+1]+254.0.

reactant | methyl 9-hydroxy-7,7-dimethyl-5,6,7,8-tetrahydroacridine-1-carboxylate | 0.63 mmol, 0.18 g | OC=1C=2CC(CCC2N=C2C=CC=C(C12)C(=O)OC)(C)C | C17H19NO3
reactant | hydrazine hydrate | 2.5 mL | O.NN
reactant | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
product | 6-Methyl-8,9,10,11-tetrahydro-2H-pyridazino[5,4,3-kl]acridin-3(7H)-one | 95 mg | CC1=C2NC=3CCCCC3C=3C2=C(C=C1)C(NN3)=O | C15H15N3O
